US07399771B2
A mixture of 4-({[1′-(2,6-Dimethyl-benzoyl)-4′-methyl-[1,4′]bipiperidinyl-4-yl]-phenyl-amino}-methyl)-benzoic acid methyl ester (180 mg, 0.325 mmol), methanol (10 ml), water (3 ml) and 33 mmol) was heated under reflux for 2 h. The pH was adjusted LiOH (200 mg to 1 with 2 N HCl and then to pH 7 with NaHCO3. The mixture was extracted with ethyl acetate and dried with Na2SO4. The solvent was evaporated and the residue crystallized from methanol/water to give 4-({[1′-(2,6-Dimethyl-benzoyl)-4′-methyl-[1,4′]bipiperidinyl-4-yl]-phenyl-amino}-methyl)-benzoic acid. MS/ESI 540 [M+H]+

reactant | 4-({[1′-(2,6-Dimethyl-benzoyl)-4′-methyl-[1,4′]bipiperidinyl-4-yl]-phenyl-amino}-methyl)-benzoic acid methyl ester | 0.325 mmol, 180 mg | COC(C1=CC=C(C=C1)CN(C1=CC=CC=C1)C1CCN(CC1)C1(CCN(CC1)C(C1=C(C=CC=C1C)C)=O)C)=O | C35H43N3O3
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 2 N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 4-({[1′-(2,6-Dimethyl-benzoyl)-4′-methyl-[1,4′]bipiperidinyl-4-yl]-phenyl-amino}-methyl)-benzoic acid | CC1=C(C(=O)N2CCC(CC2)(N2CCC(CC2)N(C2=CC=CC=C2)CC2=CC=C(C(=O)O)C=C2)C)C(=CC=C1)C | C34H41N3O3
